US07612060B2
(ii) Synthesis of (R)-N-(2,2-dimethoxyethyl)-2-(4-methylbenzenesulfonamido)pent-4-ynamide (40)
A mixture of (R)-2-(4-methylbenzenesulfonamido)pent-4-ynoic acid (11.0 g, 41.2 mmol), HOBt (6.67 g, 49.4 mmol), iPr2NEt (6.40 g, 49.4 mmol), (2,2-dimethoxyethyl)amine (8.70 g, 82.33 mmol), and EDCI (9.5 g, 49 mmol) in DMF (100 mL) was stirred for 24 h at RT. The reaction mixture was concentrated, taken up in H2O, and extracted with EtOAc (3×). The organic extracts were dried over MgSO4 and concentrated to give the title compound. 1H NMR (400 MHz, CDCl3): δ 2.15 (s, 1H), 2.43 (m, 1H), 2.51 (s, 3H), 2.88 (m, 1H), 2.94 (s, 3H), 2.96 (s, 3H), 3.37 (m, 3H), 3.85 (m, 1H), 4.33 (m, 1H), 6.78 (s, 1H), 7.33 (d, 8.0 Hz, 2H), 7.76 (d, 8.0 Hz, 2H), 8.01 (s, 1H).

reactant | (R)-2-(4-methylbenzenesulfonamido)pent-4-ynoic acid | 41.2 mmol, 11.0 g | CC1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(=O)O)CC#C | C12H13NO4S
reactant | HOBt | 49.4 mmol, 6.67 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | iPr2NEt | 49.4 mmol, 6.40 g | CCN(C(C)C)C(C)C | C8H19N
reactant | (2,2-dimethoxyethyl)amine | 82.33 mmol, 8.70 g | COC(CN)OC | C4H11NO2
reactant | EDCI | 49 mmol, 9.5 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | (R)-N-(2,2-dimethoxyethyl)-2-(4-methylbenzenesulfonamido)pent-4-ynamide | COC(CNC([C@@H](CC#C)NS(=O)(=O)C1=CC=C(C=C1)C)=O)OC | C16H22N2O5S
